US05712274
(±)-4-(4-Chlorophenyl)-6-ethoxycarbonyl-2,3,9-trimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine-6-acetic acid (2.0 g) is dissolved in dimethylformamide (20 ml). 1-Hydroxybenzotriazole (HOBt, 0.81 g), N-dimethylaminopropyl-N'-ethylcarbodiimide hydrochloride (WSC, 1.10 g) and triethyl amine (0.77 ml) are added in order under ice-cooling, and the mixture is stirred. Ten minutes later, a solution of 2-methoxyaniline (0.65 g) dissolved in dimethylformamide (6 ml) is dropwise added to the reaction mixture, and the mixture is stirred at room temperature overnight. The reaction mixture is poured into water and extracted with toluene. The organic layer is washed with a 10% aqueous solution of hydrochloric acid, an aqueous solution of sodium hydrogencarbonate and brine, and dried over anhydrous magnesium sulfate. After removing the solvent, the residue is recrystallized from ethanol to give 1.55 g of (±)-ethyl 4-(4-chlorophenyl)-6-(2-methoxyanilino)-carbonylmethyl-2,3,9-trimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4, 3-a][1,4]diazepine-6-carboxylate. 1/2 hydrate, melting point 136°-138° C.

reactant | (±)-4-(4-Chlorophenyl)-6-ethoxycarbonyl-2,3,9-trimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine-6-acetic acid | 2.0 g | ClC1=CC=C(C=C1)C1=NC(C=2N(C3=C1C(=C(S3)C)C)C(=NN2)C)(CC(=O)O)C(=O)OCC | C22H21ClN4O4S
reactant | 1-Hydroxybenzotriazole | 0.81 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-dimethylaminopropyl-N'-ethylcarbodiimide hydrochloride | 1.10 g | Cl.CN(C)CCCN=C=NCC
reactant | 2-methoxyaniline | 0.65 g | COC1=C(N)C=CC=C1 | C7H9NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | triethyl amine | 0.77 ml | C(C)N(CC)CC | C6H15N
product | (±)-ethyl 4-(4-chlorophenyl)-6-(2-methoxyanilino)-carbonylmethyl-2,3,9-trimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4, 3-a][1,4]diazepine-6-carboxylate | 1.55 g | ClC1=CC=C(C=C1)C1=NC(C=2N(C3=C1C(=C(S3C=C=O)C)C)C(=NN2)C)(C(=O)OCC)NC2=C(C=CC=C2)OC | C29H28ClN5O4S
